US08536210B2
1-(5-bromo-1,3-benzodioxol-4-yl)-N-[2-(pyrrolidin-1-yl)ethoxy]methanimine (compound 11)
To a stirred solution of 5-bromo-1,3-benzodioxole-4-carbaldehyde oxime (0.244 g, 1 mmol) in dry DMF (15 ml), 1-(2-chloroethyl)pyrrolidine hydrochloride (0.207 g, 1.22 mmol) and NaH (0.138 g, 3.45 mmol, 60% dispersion in oil) were added. The reaction mixture was stirred at ambient temperature for 5 minutes and then heated at 80° C. overnight. Then the reaction mixture was cooled to ambient temperature and quenched with methanol (4 ml). After evaporation of the solvent in vacuo, water (25 ml) was added to the residue, and the mixture was extracted with dichloromethane (2×25 ml). The combined organic phases were dried over anhydrous MgSO4. The solvent was evaporated in vacuo, and the residue was purified by column chromatography with a mixture of chloroform:ethyl acetate (10:1) as the eluent. After the isolation of the unreacted starting material, the eluent was changed to ethyl acetate:isopropanol:cc. NH3 (9:1:0.5). The crude product was digerated with water.

reactant | 5-bromo-1,3-benzodioxole-4-carbaldehyde oxime | 1 mmol, 0.244 g | BrC1=C(C2=C(OCO2)C=C1)C=NO | C8H6BrNO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 1.22 mmol, 0.207 g | Cl.ClCCN1CCCC1
reactant | NaH | 3.45 mmol, 0.138 g | [H-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-(5-bromo-1,3-benzodioxol-4-yl)-N-[2-(pyrrolidin-1-yl)ethoxy]methanimine | BrC1=C(C2=C(OCO2)C=C1)C=NOCCN1CCCC1 | C14H17BrN2O3
